US04303655
To a mixture of 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetic acid, which can be represented as 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetic acid, (350 mg.), triethylamine (96 mg.), N,N,-dimethylbenzylamine (half drop) and tetrahydrofuran (7 ml.) was dropwise added a mixture of butyl chloroformate (130 mg.) and tetrahydrofuran (1 ml.) over 1 minute at -15° C., and then the mixture was stirred for 30 minutes at -15° to -10° C. To the mixture was added all at once a mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid (224 mg.), triethylamine (80 mg.) and 50% tetrahydrofuran aqueous solution (10 ml.) which was cooled at 0° C., and the mixture was stirred for 30 minutes under ice-cooling and further stirred for 2 hours at room temperature. After the reaction, the reaction mixture was concentrated. The residue was adjusted to pH 8 with 5% sodium bicarbonate aqueous solution and washed with ethyl acetate. Thus obtained aqueous layer was adjusted to pH 1 with 10% hydrochloric acid and extracted with ethyl acetate. After distillation of the solvent from the extract, the residue was pulverized in diethyl ether, collected by filtration and dried to give pale brown powder of 3-(1-methyl1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (270 mg.).

reactant | 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetic acid | O1C(CCCC1)OC(C(=O)O)C=1N=C(SC1)NS(=O)(=O)C | C11H16N2O6S2
reactant | 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetic acid | 350 mg | O1C(CCCC1)OC(C(=O)O)C=1NC(SC1)=NS(=O)(=O)C | C11H16N2O6S2
reactant | N,N,-dimethylbenzylamine | CN(C)CC1=CC=CC=C1 | C9H13N
reactant | butyl chloroformate | 130 mg | ClC(=O)OCCCC | C5H9ClO2
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid | 224 mg | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N6O3S2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 80 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 96 mg | C(C)N(CC)CC | C6H15N
product | 3-(1-methyl1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NS(=O)(=O)C)OC2OCCCC2)=O)=O | C21H26N8O8S4
